Diode Reverse Recovery

* This file simulates reverse recovery of a diode as it switched from an
* on to off state.

Vpp 1 0 0.7v (PWL 0ns 3.0v 0.1ns 3.0v 0.11ns -6.0v) (AC 1v)
Vnn 2 0 0v
R1  1 3 1k
D1  3 2 M_PN area=100

.MODEL M_PN numd level=1
+ ***************************************
+ *** One-Dimensional Numerical Diode ***
+ ***************************************
+ options defa=1p
+ x.mesh loc=0.0 n=1
+ x.mesh loc=1.3 n=201
+ domain   num=1 material=1
+ material num=1 silicon
+ mobility mat=1 concmod=ct fieldmod=ct
+ doping gauss p.type conc=3e20 x.l=0.0  x.h=0.0 char.l=0.100
+ doping unif  n.type conc=1e16 x.l=0.0  x.h=1.3
+ doping gauss n.type conc=5e19 x.l=1.3  x.h=1.3 char.l=0.100 
+ models bgn aval srh auger conctau concmob fieldmob
+ method ac=direct

.option acct bypass=1 abstol=1e-15 itl2=100
.tran 0.001ns 1.0ns
.print tran i(Vpp)

.END
