Silicon Resistor

* This simulation demonstrates the effects of velocity saturation at
* high lateral electric fields.

VPP 1 0 10v PWL 0s 0.0v 100s 10v
VNN 2 0 0.0v 
D1 1 2 M_RES AREA=1

.MODEL M_RES numd level=1
+ options resistor defa=1p
+ x.mesh loc=0.0 num=1
+ x.mesh loc=1.0 num=101
+ domain   num=1 material=1
+ material num=1 silicon
+ doping unif n.type conc=2.5e16
+ models bgn srh conctau auger concmob fieldmob
+ method ac=direct

*.OP
.DC VPP 0.0v 10.01v 0.1v
*.TRAN 1s 100.001s 0s 0.2s
.PRINT DC I(VPP)

.OPTION ACCT BYPASS=1 RELTOL=1e-12
.END
