ASTABLE MULTIVIBRATOR

VIN 5 0 DC 0 PULSE(0 5 0 1US 1US 100US 100US)
VCC 6 0 5.0
RC1 6 1 1K
RC2 6 2 1K
RB1 6 3 30K
RB2 5 4 30K
C1 1 4 150PF
C2 2 3 150PF
Q1 1 3 0 QMOD AREA = 100P
Q2 2 4 0 QMOD AREA = 100P

.OPTION ACCT BYPASS=1
.TRAN 0.05US 8US 0US 0.05US
.PRINT TRAN V(1) V(2) V(3) V(4)

.MODEL QMOD NBJT LEVEL=1
+ X.MESH NODE=1  LOC=0.0
+ X.MESH NODE=61 LOC=3.0
+ REGION NUM=1 MATERIAL=1
+ MATERIAL NUM=1 SILICON NBGNN=1E17 NBGNP=1E17
+ MOBILITY MATERIAL=1 CONCMOD=SG FIELDMOD=SG
+ DOPING UNIF N.TYPE CONC=1E17 X.L=0.0 X.H=1.0
+ DOPING UNIF P.TYPE CONC=1E16 X.L=0.0 X.H=1.5
+ DOPING UNIF N.TYPE CONC=1E15 X.L=0.0 X.H=3.0
+ MODELS BGNW SRH CONCTAU AUGER CONCMOB FIELDMOB
+ OPTIONS BASE.LENGTH=1.0 BASE.DEPTH=1.25

.END
