Level shift by auto-bridges with different VCCs.

* A level shifter made by placing digital buffers in subcircuits.

.param vcc=5 ; Circuit-wide default for auto-bridge levels (not used)

.subckt buffer in out vcc=3 ; These subcircuits default to 3V.
abuf in out buf
.ends

.model buf d_buffer

vin in 0 sin(1.5 1.5 100k)
xb1 in mid buffer        ; ADC bridge with VCC=3V will be used.
xb2 mid out buffer vcc=6 ; DAC bridge with 6V swing will be used,
rload out 0 10k          ; Analog node forces bridge insertion,

.control
tran 100n 30u
plot in out
.endc
.end

